US08207172B2
Step 2. Preparation of N-(3-chloro-4-fluorophenyl)-2-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To a stirring solution of 2-(2-bromoethyl)-N-(3-chloro-4-fluorophenyl)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine (100 mg, 0.2 mmol) in DMF solution (5 mL) were sequentially added 1-methyl-piperazine (0.03 mL, 0.31 mmol), sodium iodide (31.3 mg, 0.21 mmol), and sodium carbonate (44.3 mg, 0.42 mmol). The mixture was stirred at 60° C. for 4 h, after which time the contents were allowed to cool to rt and the solvent then removed under reduced pressure. The crude product was purified via reverse phase HPLC to afford the desired product (66 mg, 63%) as a white solid. 1H-NMR (CD3OD) δ 2.25 (s, 3H), 2.40-2.60 (m, 8H), 2.76 (t, 2H), 2.95 (t, 2H), 3.28 (t, 2H), 4.17 (t, 2H), 7.10 (t, 1H), 7.45-7.50 (m, 1H), 7.69 (s, 1H), 7.84 (dd, 1H), 8.42 (s, 1H); LCMS RT=2.46 min; [M+H]+=498.2.

reactant | 2-(2-bromoethyl)-N-(3-chloro-4-fluorophenyl)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 0.2 mmol, 100 mg | BrCCN1N=C2CCC3=C(C2=C1)SC=1C3=C(N=CN1)NC1=CC(=C(C=C1)F)Cl | C19H14BrClFN5S
reactant | 1-methyl-piperazine | 0.31 mmol, 0.03 mL | CN1CCNCC1 | C5H12N2
reactant | sodium iodide | 0.21 mmol, 31.3 mg | [I-].[Na+]
reactant | sodium carbonate | 0.42 mmol, 44.3 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(3-chloro-4-fluorophenyl)-2-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 66 mg, 63% | ClC=1C=C(C=CC1F)NC=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)CCN1CCN(CC1)C)S2 | C24H25ClFN7S
